US08871756B2
N-{2-[(2-Aminoethyl)sulfanyl]ethyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 8-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2,2′-sulfanediyldiethanamine. MS obsd. (ESI+) [(M+H)+] 457, 1H NMR (400 MHz, CD3OD) δ ppm 8.00 (dd, J=7.83, 1.26 Hz, 1 H), 7.84 (d, J=7.33 Hz, 1 H), 7.65 (td, J=7.58, 1.26 Hz, 1 H), 7.57 (s, 1 H), 7.51-7.39 (m, 2 H), 7.29 (dd, J=8.59, 1.77 Hz, 1 H), 6.03 (s, 1 H), 5.14 (s, 2 H), 3.65-3.50 (m, 4 H), 2.92-2.79 (m, 4 H), 2.78-2.68 (m, 2 H), 2.42 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2,2′-sulfanediyldiethanamine | S(CCN)CCN | C4H12N2S
product | N-{2-[(2-Aminoethyl)sulfanyl]ethyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NCCSCCNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H28N4O2S2
